US07655679B2
290 mg 4-[2-(Benzooxazol-2-yl-butyl-amino)-ethyl]-benzonitrile were dissolved in a mixture of 10 ml tetrahydrofuran and 20 ml methanol. 930 mg hydroxylamine hydrochloride were added followed by the addition of 2.24 ml triethylamine. The reaction mixture was stirred at 65° C. for two hours. The cooled reaction mixture was diluted by the addition of 100 ml ethyl acetate, then washed three times with 40 ml water. The organic layer was dried over MgSO4, then the solvent was removed in vacuo to obtain 280 mg 4-[2-(Benzooxazol-2-yl-butyl-amino)-ethyl]-N-hydroxy-benzamidine as a pale yellow oil.

reactant | 4-[2-(Benzooxazol-2-yl-butyl-amino)-ethyl]-benzonitrile | 290 mg | O1C(=NC2=C1C=CC=C2)N(CCC2=CC=C(C#N)C=C2)CCCC | C20H21N3O
reactant | hydroxylamine hydrochloride | 930 mg | Cl.NO
reactant | triethylamine | 2.24 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
product | 4-[2-(Benzooxazol-2-yl-butyl-amino)-ethyl]-N-hydroxy-benzamidine | 280 mg | O1C(=NC2=C1C=CC=C2)N(CCC2=CC=C(C(=N)NO)C=C2)CCCC | C20H24N4O2
